US09079866B2
5-(3-Fluoro-2-methoxybiphenyl-4-yl)pyrazin-2-amine
The title compound was prepared by a method analogous to Example 461 using phenylboronic acid and 5-(4-bromo-2-fluoro-3-methoxyphenyl)pyrazin-2-amine. MS (ESI): mass calcd. for C17H14FN3O, 295.11; m/z found, 296.1 [M+H]+. 1H NMR (500 MHz, CDCl3) δ 8.58-8.55 (m, 1H), 8.12 (d, J=1.5, 1H), 7.65 (dd, J=8.1, 7.5, 1H), 7.61-7.54 (m, 2H), 7.48-7.42 (m, 2H), 7.41-7.34 (m, 1H), 7.23 (dd, J=8.2, 1.4, 1H), 4.69 (s, 2H), 3.74 (d, J=0.9, 3H).

reactant | phenylboronic acid | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | 5-(4-bromo-2-fluoro-3-methoxyphenyl)pyrazin-2-amine | BrC1=C(C(=C(C=C1)C=1N=CC(=NC1)N)F)OC | C11H9BrFN3O
product | 5-(3-Fluoro-2-methoxybiphenyl-4-yl)pyrazin-2-amine | FC=1C(=C(C=CC1C=1N=CC(=NC1)N)C1=CC=CC=C1)OC | C17H14FN3O
